* Z:\home\francisco\Files\ENC\8th Semester\Aquisição de Sinais\Relatórios 2018-1\Relatório Amplificador Macromodelo\LTSPICE\parte3.asc
Vs Vi 0 SINE(0 0.1 1k)
Rs Vin Vi 10
Rentrada 0 Vin 100000
Rsaida Vo Von 10
RL Vo 0 10k
B1 Von 0 V=limit(-5,1000*V(vin),+5)
.tran 4ms
.backanno
.end
