* C:\Users\Matheus\Desktop\Topicos I\Trabalho 2 - Pequenos Sinais\Trabalho2.asc
M1 Vout N002 0 N003 N_1u l=1.5u w=3u
Vgs N002 0 SINE(0 200mv 1k)
Rd N001 Vout 10k
Vd N001 0 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Matheus\Documents\LTspiceXVII\lib\cmp\standard.mos
.dc Vgs 0 5 0.01
.include cmosedu_models.txt
.backanno
.end
