* Z:\home\francisco\Files\College-UFSC\6th semestre\Tópicos Especiais I -Microeletronica\Trabalho_1\trabalho1.asc
M1 N001 N002 0 0 N_1u l=1.5u w=9.6u
Vgs N002 0 1
Vds N001 0 2
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\francisco\My Documents\LTspiceXVII\lib\cmp\standard.mos
.include cmosedu_models.txt
.dc Vds 0 5 0.01 Vgs 0 5 1
.backanno
.end
