* Z:\home\francisco\Files\College-UFSC\6th semester\Tópicos Especiais I -Microeletronica\Trabalho 5 Espelho de corrente\Parte 7\pt7.asc
V1 VDD 0 5V
M1 Vx Vx 0 N001 N_1u l=1.5u w=3u
I1 VDD Vx 39.3µ
M2 Vout2 Vx 0 N002 N_1u l=1.5u w=6u
M3 vout3 Vx 0 N003 N_1u l=1.5u w=6u
M4 vout4 Vx 0 N004 N_1u l=1.5u w=6u
R1 VDD Vout2 40k
R2 VDD vout3 50k
R3 VDD vout4 10k
M5 vout5 Vx 0 N005 N_1u l=1.5u w=6u
R4 VDD vout5 1k
M6 vout6 Vx 0 N006 N_1u l=1.5u w=6u
R5 VDD vout6 1Meg
M7 vout7 Vx 0 N007 N_1u l=1.5u w=6u
R6 VDD vout7 10
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.include cmosedu_models.txt
.op
.backanno
.end
