* Z:\home\francisco\Files\College-UFSC\6th semester\Tópicos Especiais I\Parte_3\Circuito\Parte3.asc
Vgs1 in N001 AC 1
VGS N001 0 1.5
M§N_1u Vout in 0 0 N_1u l=1.5u w=3u
RD VDD Vout 25k
VDS VDD 0 5V
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.include cmosedu_models.txt
.ac dec 10 1 1000000
.measure AC GAIN FIND V(vout) AT = 1
.backanno
.end
