* C:\Users\Matheus\Desktop\Topicos I\Trabalho_1\trabalho1.asc
M1 N001 N002 0 0 N_1u l=1.5u w=9.2u
Vgs N002 0 1
Vds N001 0 2
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Matheus\Documents\LTspiceXVII\lib\cmp\standard.mos
.include cmosedu_models.txt
.dc Vds 0 5 0.01 Vgs 0 5 0.5
.backanno
.end
