* C:\Users\Jonas\Google Drive\ENC\9\MicroEletronica\Otimização Muller\Simulação\inicial.asc
* v = [50.000000 49.980000 49.990000 32.150000 0.100000 100.000000 ]
I1 Vg857 Vss {Iref}
M3 Vg43Vd1 Vg43Vd1 Vss Vss N_1u l={Ln} w={Wn}
C1 Vg6Vd24 out {C}
V1 Vdd 0 2.5
V2 Vss 0 -2.5
V3 in+ 0 AC 1
C2 out 0 1p
M1 Vg43Vd1 0 Vd5Vs12 Vd5Vs12 P_1u l={Lp} w={Wp}
M4 Vg6Vd24 Vg43Vd1 Vss Vss N_1u l={Ln} w={Wn}
M6 out Vg6Vd24 Vss Vss N_1u l={Ln} w={Wn}
M2 Vg6Vd24 in+ Vd5Vs12 Vd5Vs12 P_1u l={Lp} w={Wp}
M7 out Vg857 Vdd Vdd P_1u l={Lp} w={Wp}
M5 Vd5Vs12 Vg857 Vdd Vdd P_1u l={Lp} w={Wp}
M8 Vg857 Vg857 Vdd Vdd P_1u l={Lp} w={Wp}
.ac dec 100 1 1MEG
.include cmosedu_models.txt
.param Wp=50.000000u
.param Lp=49.980000u
.param Wn=49.990000u
.param Ln=32.150000u
.param C=0.100000p
.param Iref=100.000000u
.meas AC Gain1Hz FIND V(out) AT 1
.backanno
.end
